US04451471
120 g of 2-phenyl-1-(3-pyridyl)-ethanone hydrobromide are heated to 75° in 1000 ml of acetic acid. The heating bath is then removed and, while stirring, a solution of 75.8 g of bromine in 30 ml of acetic acid is added in portions each of 5 ml. While then stirring, the mixture is gradually allowed to cool to 60°, then is cooled to 20° by means of an ice-bath, filtered with suction, washed first once with 100 ml of cold acetic acid and then twice with 200 ml of diethyl ether each time, and dried under reduced pressure. 2-Bromo-2-phenyl-1-(3-pyridyl)-ethanone hydrobromide having a melting point of 216°-219° is obtained.

reactant | 2-phenyl-1-(3-pyridyl)-ethanone hydrobromide | 120 g | Br.C1(=CC=CC=C1)CC(=O)C=1C=NC=CC1
solvent | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-2-phenyl-1-(3-pyridyl)-ethanone hydrobromide | Br.BrC(C(=O)C=1C=NC=CC1)C1=CC=CC=C1 | InChI=1S/C13H10BrNO.BrH/c14-12(10-5-2-1-3-6-10)13(16)11-7-4-8-15-9-11;/h1-9,12H;1H
